US07745641B2
4-Chloro-3-hydroxy-7-iodo-2-(1-methyl-1-phenylethyl)isoindolinone (6.94 g, 16.2 mmol) was dissolved in nitromethane (280 mL), and the solution was added with trifluoroacetic acid (17.7 mL, 230 mmol) and triethylsilane (7.35 mL, 46.1 mmol), followed by stirring at room temperature for 23 hours. The reaction mixture was added with water and extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by slurry using diisopropyl ether to obtain 4-chloro-7-iodoisoindolinone (4.73 g, yield 99%).

reactant | 4-Chloro-3-hydroxy-7-iodo-2-(1-methyl-1-phenylethyl)isoindolinone | 16.2 mmol, 6.94 g | ClC1=C2C(N(C(C2=C(C=C1)I)=O)C(C)(C1=CC=CC=C1)C)O | C17H15ClINO2
reactant | trifluoroacetic acid | 230 mmol, 17.7 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | triethylsilane | 46.1 mmol, 7.35 mL | C(C)[SiH](CC)CC | C6H16Si
reactant | water | O | H2O
solvent | nitromethane | 280 mL | [N+](=O)([O-])C | CH3NO2
product | 4-chloro-7-iodoisoindolinone | 4.73 g, yield 99% | ClC1=C2CNC(C2=C(C=C1)I)=O | C8H5ClINO
